US04551452
alpha-Chloroethyl Octyl Carbonate
To a stirring solution of dry n-octanol (6.42 g, 49.3 mmol) and pyridine (3.90 g, 49.3 mmol) in anhydrous ether (75 mL) was added at 0° C. alpha-chloroethyl chloroformate (prepared according to U.K. Pat. No. 1,426,717; 7.00 g, 49.3 mmol). The mixture was stirred vigorously for three hours at 25° C. then filtered. The filtrate was concentrated in vacuo and distilled at 102°-107° C. (2 mm) affording 8.1 g title product as a clear oil (34.2 mmol, 69.4%): 1H NMR (CDCl3) delta 0.44-2.03 (m, 15H), 1.60 (d, J=6 Hz, 3H), 3.94 (t, J=7 Hz, 2H), 6.18 (q, J=6 Hz, 1H).

reactant | n-octanol | 49.3 mmol, 6.42 g | C(CCCCCCC)O | C8H18O
reactant | pyridine | 49.3 mmol, 3.90 g | N1=CC=CC=C1 | C5H5N
reactant | alpha-chloroethyl chloroformate | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | ether | 75 mL | CCOCC | C4H10O
product | alpha-Chloroethyl Octyl Carbonate | 34.2 mmol, 8.1 g, 69.4% | C(OC(C)Cl)(OCCCCCCCC)=O | C11H21ClO3
